US09302989B2
2-cyclopentyl-N-(4-nitrophenyl)acetamide
The title compound was prepared as described in Example 278, substituting 2-cyclopentylacetyl chloride for acetyl chloride and 4-nitroaniline for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | 2-cyclopentyl-N-(4-nitrophenyl)acetamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O3
